US06316482B1
To a solution of N-[2-[4,4-dimethyl(2,5-oxazolinyl)]-phenyl]-3-methoxy-4-methoxycarbonylbenzamide (1.45 g) in N,N-dimethylformamide (18 ml) was added portionwise sodium hydride (167 mg) at 0° C. and the mixture was stirred at 0° C. for 30 minutes. Methyl iodide (0.283 ml) was added to the mixture and the solution was stirred at 0° C. for 1 hour. The reaction was quenched with water and then the aqueous solution was extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. The solvent was evaporated in vacuo to give N-[2-[4,4-dimethyl-(2,5-oxazolinyl)]phenyl]-N-methyl-3-methoxy-4-methoxycarbonylbenzamide (1.5 g).

reactant | N-[2-[4,4-dimethyl(2,5-oxazolinyl)]-phenyl]-3-methoxy-4-methoxycarbonylbenzamide | 1.45 g | CC1(COC(=N1)C1=C(C=CC=C1)NC(C1=CC(=C(C=C1)C(=O)OC)OC)=O)C | C21H22N2O5
reactant | sodium hydride | 167 mg | [H-].[Na+]
reactant | Methyl iodide | 0.283 ml | CI | CH3I
solvent | N,N-dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | N-[2-[4,4-dimethyl-(2,5-oxazolinyl)]phenyl]-N-methyl-3-methoxy-4-methoxycarbonylbenzamide | 1.5 g | CC1(COC(=N1)C1=C(C=CC=C1)N(C(C1=CC(=C(C=C1)C(=O)OC)OC)=O)C)C | C22H24N2O5
